US06200999B1
A mixture of di-tert-butyl dicarbonate (3.1 g, 14 mmol), triethylamine (3.8 g, 37 mmol) and 1,4-dioxane (15 mL) was added to a solution of ethyl (RS)-2-amino-3-(5-ethoxycarbonyl-3-hydroxyisoxazol-4-yl)propionate (4.15 g, 11.7 mmol) in a water/1,4-dioxane (1:1) (50 mL), and the resulting mixture was stirred at room temperature for 16 h. The 1,4-dioxane was evaporated in vacuo, and the aqueous phase was acidified with dilute aqueous HCl. The aqueous phase was extracted with ethyl acetate, and the organic extracts washed with water, brine, dried (MgSO4) and concentrated in vacuo. Flash chromatography (SiO2, eluent: heptane/ethyl acetate/acetic acid (1:1, 4%)) gave ethyl (RS)-2-tert-butoxycarbonylamino-3-(5-ethoxycarbonyl-3-hydroxyisoxazol-4-yl)propionate as an oil (4.1 g, 92%).

reactant | di-tert-butyl dicarbonate | 14 mmol, 3.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 37 mmol, 3.8 g | C(C)N(CC)CC | C6H15N
reactant | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
reactant | ethyl (RS)-2-amino-3-(5-ethoxycarbonyl-3-hydroxyisoxazol-4-yl)propionate | 11.7 mmol, 4.15 g | NC(C(=O)OCC)CC=1C(=NOC1C(=O)OCC)O | C11H16N2O6
solvent | water 1,4-dioxane | 50 mL | O.O1CCOCC1
product | ethyl (RS)-2-tert-butoxycarbonylamino-3-(5-ethoxycarbonyl-3-hydroxyisoxazol-4-yl)propionate | 4.1 g, 92% | C(C)(C)(C)OC(=O)NC(C(=O)OCC)CC=1C(=NOC1C(=O)OCC)O | C16H24N2O8
